US07358248B2
(2R)-2-tert-Butoxycarbonylamino-3-[4-(2-indol-1-yl-acetylamino)-benzylsulfanyl]-propionic acid
A solution of indol-1-yl-acetic acid (1.25 g, 7.14 mmol), (2R)-3-(4-amino-benzylsulfanyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester (2.67 g, 7.85 mmol), EDC (1.71 g, 8.93 mmol), triethylamine (2.48 mL, 17.85 mmol) and DMAP (87 mg, 0.714 mmol) in DCM (50 mL) was stirred at ambient temperature. Upon completion (TLC: 2% methanol in dichloromethane), the reaction was quenched with water (75 mL) and extracted with ethyl acetate (3×50 mL). The combined extract was washed sequentially with water and brine, dried over anhydrous MgSO4, filtered, concentrated in vacuo and purified by flash chromatography (SiO2; 30-40% ethyl acetate/heptane as eluent). To a stirred solution of (2R)-2-tert-butoxycarbonylamino-3-[4-(2-indol-1-yl-acetylamino)-benzylsulfanyl]-propionic acid methyl ester (0.470 g, 0.945 mmol) in methanol (3 mL) and THF (12 mL) was added 2N NaOH solution (2.5 mL, 5.3 mmol). Upon completion (TLC 10% methanol in dichloromethane), the mixture was acidified to pH 2 with 2N HCl solution and extracted with ethyl acetate (3×20 mL). The combined extract was washed sequentially with water and brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo to yield the titled compound as a light yellow solid. Rf=0.40 (20% methanol in dichloromethane); 1H NMR (CDCl3, 300 MHz) δ 7.71 (1H, d, J=7 Hz, Ar—H), 7.37-7.20 (6H, m, Ar—H), 7.16 (1H, d, J=3 Hz, Ar—H), 7.00 (1H, m, Ar—H), 6.69 (1H, d, J=3 Hz, Ar—H), 4.95 (2H, s, NCH2CO), 4.38 (1H, m, CHN), 3.66 (2H, s, PhCH2S), 2.85 (2H, m, CH2CHN), 1.45 (9H, s, CMe3); ESI-LCMS e/z calculated for C25H29N3O5S 483.183, found 484 (M+H)+, 506 (M+Na)+.

reactant | indol-1-yl-acetic acid | 7.14 mmol, 1.25 g | N1(C=CC2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | (2R)-3-(4-amino-benzylsulfanyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | 7.85 mmol, 2.67 g | COC([C@H](CSCC1=CC=C(C=C1)N)NC(=O)OC(C)(C)C)=O | C16H24N2O4S
reactant | EDC | 8.93 mmol, 1.71 g
reactant | triethylamine | 17.85 mmol, 2.48 mL | C(C)N(CC)CC | C6H15N
reactant | (2R)-2-tert-butoxycarbonylamino-3-[4-(2-indol-1-yl-acetylamino)-benzylsulfanyl]-propionic acid methyl ester | 0.945 mmol, 0.470 g | COC([C@H](CSCC1=CC=C(C=C1)NC(CN1C=CC2=CC=CC=C12)=O)NC(=O)OC(C)(C)C)=O | C26H31N3O5S
reactant | NaOH | 5.3 mmol, 2N, 2.5 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
catalyst | DMAP | 0.714 mmol, 87 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 3 mL | CO | CH4O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2R)-2-tert-Butoxycarbonylamino-3-[4-(2-indol-1-yl-acetylamino)-benzylsulfanyl]-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CSCC1=CC=C(C=C1)NC(CN1C=CC2=CC=CC=C12)=O | C25H29N3O5S
